US08202856B2
Step 1: 1-acetoylindoline-5-carbonitrile
A solution of 1-(5-aminoindolin-1-yl)ethanone (Aldrich, 865 mg; 4.91 mmol) in HCl (2.1 M, 2.95 mL) was treated with sodium nitrite (358 mg; 5.18 mmol) and the mixture was stirred at 0° C. for 3 hours. The solution was neutralized with sodium carbonate (3.12 g; 29.43 mmol) and the resulting mixture was added to a suspension of sodium cyanide (519 mg; 10.6 mmol) and copper cyanide (467 mg; 5.21 mmol) in water (4 mL) at 0° C. The resulting suspension was heated to 50° C., stirred for 30 minutes, cooled to 0° C. and the precipitated solid was collected by filtration. The collected solid was recrystallised from aqueous acetonitrile to give the title compound as a brown solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.16 (1H, d, J=8.3 Hz), 7.72-7.62 (2H, m), 4.23-4.11 (2H, m), 2.54 (3H, t, J=2.1 Hz), 2.23 (3H, s).

reactant | 1-(5-aminoindolin-1-yl)ethanone | 4.91 mmol, 865 mg | NC=1C=C2CCN(C2=CC1)C(C)=O | C10H12N2O
reactant | sodium nitrite | 5.18 mmol, 358 mg | N(=O)[O-].[Na+]
reactant | sodium carbonate | 29.43 mmol, 3.12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium cyanide | 10.6 mmol, 519 mg | [C-]#N.[Na+]
reactant | copper cyanide | 5.21 mmol, 467 mg | [Cu](C#N)C#N
solvent | HCl | 2.1 M, 2.95 mL | Cl | ClH
solvent | water | 4 mL | O | H2O
product | 1-acetoylindoline-5-carbonitrile | C(C)(=O)N1CCC2=CC(=CC=C12)C#N | C11H10N2O
